US08895592B2
N-[(2Z)-5-tert-butyl-1,3-thiazol-2(3H)-ylidene]-2-fluoro-5-(trifluoromethyl)benzamide
A mixture of 5-tert-butylthiazol-2-amine (1.93 g, 12.3 mmol) and triethylamine (3.44 mL, 2.46 mmol) in dichloromethane (50 mL) was treated with 2-fluoro-5-(trifluoromethyl)benzoyl chloride (Alfa, 1.87 mL, 12.3 mmol) and stirred at room temperature for 6 hours. The reaction mixture was washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified using an Analogix® Intelliflash280™ (SiO2, 0-50% ethyl acetate in hexanes) to give the title compound (3 g, 71% yield). MS (DCI/NH3) m/z 347 (M+H)+.

reactant | 5-tert-butylthiazol-2-amine | 12.3 mmol, 1.93 g | C(C)(C)(C)C1=CN=C(S1)N | C7H12N2S
reactant | triethylamine | 2.46 mmol, 3.44 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 12.3 mmol, 1.87 mL | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[(2Z)-5-tert-butyl-1,3-thiazol-2(3H)-ylidene]-2-fluoro-5-(trifluoromethyl)benzamide | 3 g, 71% yield | C(C)(C)(C)C1=CN/C(/S1)=N/C(C1=C(C=CC(=C1)C(F)(F)F)F)=O | C15H14F4N2OS
